US07951550B2
Synthesis of 2-cyano-6(2-nitro4-trifluoromethyl-phenoxy) quinoline.
The mixture of 2-cyano-6-hydroxyquinoline (0.50 g, 2.94 mmol), 2-nitro-4-trifluoromethylbenzene chloride (0.67 g, 2.94 mmol) and potassium carbonate (0.41 g, 2.97 mmol) in 30 ml of DMSO was heated to 100° C. for 30 min. Upon cooling to room temperature, the mixture was poured into 30 ml of cold water and exacted three times with methylene chloride. The combined organic layer was washed with water and dried over magnesium sulfate. The product was purified by flash chromatography using heptane/methylene chloride (1:2) as eluent in a yield of 35%.

reactant | 2-cyano-6-hydroxyquinoline | 2.94 mmol, 0.50 g | C(#N)C1=NC2=CC=C(C=C2C=C1)O | C10H6N2O
reactant | 2-nitro-4-trifluoromethylbenzene chloride | 2.94 mmol, 0.67 g | [Cl-].[N+](=O)([O-])C1=CC=CC(=C1)C(F)(F)F
reactant | potassium carbonate | 2.97 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-cyano-6(2-nitro4-trifluoromethyl-phenoxy) quinoline | yield of 35% | C(#N)C1=NC2=CC=C(C=C2C=C1)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C17H8F3N3O3
